US09145407B2
tert-Butyl[(5-chloro-2-fluoro-4-{2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethoxy)phenoxy}phenyl)sulfonyl]1,3-thiazol-4-ylcarbamate
To a solution of 2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethoxy)phenol (Preparation 24, 2.00 g, 5.36 mmol) and tert-butyl[(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate (Preparation 4, 2.20 g, 5.36 mmol) in dimethylsulfoxide (30 mL) was added potassium carbonate (1.5 g, 11 mmol). The reaction mixture was stirred for 18 hours at ambient temperature. The reaction mixture was then diluted with water and extracted with ethyl acetate (×3). The combined organic phase was washed with water (×2) then dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was triturated with ether and the solid collected by filtration and dried in vacuo to afford the title compound with a 5% de-boc impurity (3.70 g). The compound was used without further purification in the next step.

reactant | 2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethoxy)phenol | 5.36 mmol, 2.00 g | [N+](=O)([O-])C1=NN(C=C1C1=C(C=CC(=C1)OC(F)(F)F)O)C1OCCCC1 | C15H14F3N3O5
reactant | tert-butyl[(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | 5.36 mmol, 2.20 g | C(C)(C)(C)OC(N(C=1N=CSC1)S(=O)(=O)C1=C(C=C(C(=C1)Cl)F)F)=O | C14H13ClF2N2O4S2
reactant | potassium carbonate | 11 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | tert-Butyl[(5-chloro-2-fluoro-4-{2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethoxy)phenoxy}phenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | C(C)(C)(C)OC(N(C=1N=CSC1)S(=O)(=O)C1=C(C=C(C(=C1)Cl)OC1=C(C=C(C=C1)OC(F)(F)F)C=1C(=NN(C1)C1OCCCC1)[N+](=O)[O-])F)=O | C29H26ClF4N5O9S2
